* C:\Users\thistle\projects\enshu-git\kairo\Draft5.asc
V1 N002 0 PULSE(-0.1 0.1 0 1u 1u 1m 2m 10)
R1 Vin N002 1p
C1 Vc Vin 1p
XU1 Vin 0 Vc opamp Aol=100K GBW=10Meg
XU2 N001 0 Vout opamp Aol=100K GBW=10Meg
R2 N001 Vc 7K
R3 Vout N001 1
.tran 0 20m 0 1u
.lib "opamp.sub"
.ic V(Vc)=0 V(Vin)=0 V(Vout)=0
.backanno
.end
