* C:\Users\thistle\projects\enshu-git\sonota\2-1.asc
V1 V+ 0 15V
V2 V- 0 -15V
V3 Input 0 AC 1
R1 N001 Input 2.84k
R3 N002 N001 17.9k
R4 Output N001 28.4k
C2 N001 0 0.05µ
XU1 0 N002 V+ V- Output level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C5 Output N002 0.001µ
.ac oct 20 10 100k
.lib UniversalOpAmp2.lib
.backanno
.end
